US04176235
By substituting 2-acetoxy-3-(acetylthio)propanoic acid for the 2-(acetylthiomethyl)-3-(acetylthio)propanoic acid in the procedure of Example 38 and then submitting the product to the procedures of Examples 39 and 40, Nα -[2-acetoxy-3-(acetylthio)propanoyl]-Nε -tert.butyloxycarbonyl-L-lysine tert.butyl ester, Nα -[2-acetoxy-3-(acetylthio)propanoyl]-L-lysine and Nα -(2-hydroxy-3-mercaptopropanoyl-L-lysine are obtained.

reactant | 2-acetoxy-3-(acetylthio)propanoic acid | C(C)(=O)OC(C(=O)O)CSC(C)=O | C7H10O5S
reactant | 2-(acetylthiomethyl)-3-(acetylthio)propanoic acid | C(C)(=O)SCC(C(=O)O)CSC(C)=O | C8H12O4S2
reactant | Nα -[2-acetoxy-3-(acetylthio)propanoyl]-Nε -tert.butyloxycarbonyl-L-lysine tert.butyl ester | C(C)(C)(C)OC([C@@H](NC(C(CSC(C)=O)OC(C)=O)=O)CCCCNC(=O)OC(C)(C)C)=O | C22H38N2O8S
reactant | Nα -[2-acetoxy-3-(acetylthio)propanoyl]-L-lysine | C(C)(=O)OC(C(=O)N[C@@H](CCCCN)C(=O)O)CSC(C)=O | C13H22N2O6S
product | 2-hydroxy-3-mercaptopropanoyl-L-lysine | O[C@](NC(CCS)=O)(CCCCN)C(=O)O | C9H18N2O4S
